datasets/10k_Mayr_OG.csv
SMILES Labelled
"C/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11](C)=[O:12])[N+:61]#[N:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.N#C[CH:20]([H:10])[CH:21]=[C:22]=[N-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.OC[C@@H]1CCC[NH:10]1>>COC1=CC=[N+](C[C:21]([CH:20]([NH+:10]2CCC[C@H]2CO)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC[O:62][C:11]([CH:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C@@H]1C1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CCCC[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CCCC[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC(C)[C:11]([CH2:10][CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1.C[N:10]1CCCCC1>>C[N+:10]1([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)CCCCC1 10=20;20,21=21"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C(C#N)C=C2)=[C:11]([O-:12])[O:82]1.CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[C:10]2(CC3=CC=C(C#N)C=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CC[O:72]2)C(F)=C1F>>C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CC[O:72][C:11]2=[O+:12][Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([C:10]2=[N+:71](C)[CH:63]=[CH:62][N:61]2C(C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].C[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[C:21]([CH:20]([S:10][C:61]1=[CH:62][CH:63]=[C:64](C)[CH:73]=[CH:72]1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
